US06949551B2
Step 4: 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-1-iodo-2-[3-(5-trifluoromethylpyrid-2--yloxy)propyloxy]benzene
2.23 g of 3-chloro-5-hydroxy-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]-benzene were dissolved in 22 ml of acetone, and 0.79 g of 1,1,3-trichloropropene, 1.3 g of potassium carbonate and 0.27 g of sodium iodide were added. The mixture was stirred at room temperature for 20 hours (monitored by TLC). The reaction mixture was then concentrated using a rotary evaporator, and the resulting crude product was subjected to chromatographic purification. Yield: 2.62 g (95%)

reactant | 3-chloro-5-hydroxy-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]-benzene | 2.23 g | ClC=1C(=C(C=C(C1)O)I)OCCCOC1=NC=C(C=C1)C(F)(F)F | C15H12ClF3INO3
reactant | 1,1,3-trichloropropene | 0.79 g | ClC(=CCCl)Cl | C3H3Cl3
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.27 g | [I-].[Na+]
solvent | acetone | 22 ml | CC(=O)C | C3H6O
product | 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-1-iodo-2-[3-(5-trifluoromethylpyrid-2--yloxy)propyloxy]benzene | ClC=1C(=C(C=C(C1)OCC=C(Cl)Cl)I)OCCCOC1=NC=C(C=C1)C(F)(F)F | C18H14Cl3F3INO3
